US08084448B2
5-{4-[3-(3,4-Dimethoxyphenyl)-propyl]-2-hydroxyphenyl}-1,1-dioxo-1,2,5-thiadiazolidin-3-one
The title compound is prepared from 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one and 4-allyl-1,2-dimethoxybenzene analogous to Example 51: (M−1)−=405.

reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C20H25IN2O4SSi
reactant | 4-allyl-1,2-dimethoxybenzene | C(C=C)C1=CC(=C(C=C1)OC)OC | C11H14O2
product | 5-{4-[3-(3,4-Dimethoxyphenyl)-propyl]-2-hydroxyphenyl}-1,1-dioxo-1,2,5-thiadiazolidin-3-one | COC=1C=C(C=CC1OC)CCCC1=CC(=C(C=C1)N1CC(NS1(=O)=O)=O)O | C19H22N2O6S
